US06248739B1
1-Amino-N-(4-chlorobenzyl)-6-iodo-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A suspension of N-(4-chlorobenzyl)-4-hydroxy-6-iodo-3-quinolinecarboxamide (2.0 g) of Preparation No. 4 and of potassium carbonate (2.0 g) in DMF (40 mL) is stirred at room temperature for 5 hrs and then treated with of O-(mesitylsulfonyl)hydroxylamine (1.5 g). After 24 hrs, the solvent is evaporated under reduced pressure and the residue is diluted with water(150 mL). The resulting solid is filtered and washed with water (3×) and ether (2×). Recrystallization from hot acetic acid/water affords 1.35 g of the title compound as a tan solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-iodo-3-quinolinecarboxamide | 2.0 g | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)I)C=C1 | C17H12ClIN2O2
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | O-(mesitylsulfonyl)hydroxylamine | 1.5 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)ON)C | C9H13NO3S
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 1-Amino-N-(4-chlorobenzyl)-6-iodo-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 1.35 g | NN1C=C(C(C2=CC(=CC=C12)I)=O)C(=O)NCC1=CC=C(C=C1)Cl | C17H13ClIN3O2
